* Block 06: Level Shifters
* PVDD 5V LDO Regulator — SkyWater SKY130A
*
* NOTE: Requires ~/.spiceinit with "set ngbehavior=hs"
*       This enables HSPICE compatibility with SCALE=1e-6,
*       so W/L values are in MICRONS, not meters.
*
* Two subcircuits:
*   1. level_shifter_up   — SVDD (2.2V) → BVDD (5.4–10.5V)
*   2. level_shifter_down — PVDD (5.0V) → SVDD (2.2V)
*
* Both use cross-coupled PMOS topology for zero static current.
* All devices are HV (g5v0d10v5).
*
* ============================================================
* Low-to-High Shifter: SVDD → BVDD
* ============================================================
.subckt level_shifter_up in out bvdd svdd gnd
.param wn_up=10
.param wp_up=4
.param winv_n=2
.param winv_p=4

* Input inverter (SVDD domain)
XMN_INV in_b in  gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 W=winv_n L=0.5
XMP_INV in_b in  svdd svdd sky130_fd_pr__pfet_g5v0d10v5 W=winv_p L=0.5

* NMOS pull-downs (driven by SVDD-level signals, L=1 to reduce subthreshold leakage)
XMN1 n1  in   gnd gnd sky130_fd_pr__nfet_g5v0d10v5 W=wn_up L=1
XMN2 out in_b gnd gnd sky130_fd_pr__nfet_g5v0d10v5 W=wn_up L=1

* Cross-coupled PMOS (BVDD domain)
XMP1 n1  out bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 W=wp_up L=0.5
XMP2 out n1  bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 W=wp_up L=0.5

.ends level_shifter_up

* ============================================================
* High-to-Low Shifter: PVDD → SVDD
* ============================================================
.subckt level_shifter_down in out pvdd svdd gnd
.param wn_dn=2
.param wp_dn=4
.param winv_n=2
.param winv_p=4

* Input inverter (PVDD domain)
XMN_INV in_b in  gnd  gnd  sky130_fd_pr__nfet_g5v0d10v5 W=winv_n L=0.5
XMP_INV in_b in  pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 W=winv_p L=0.5

* NMOS pull-downs (driven by PVDD-level signals, L=1 to reduce subthreshold leakage)
XMN1 n1  in   gnd gnd sky130_fd_pr__nfet_g5v0d10v5 W=wn_dn L=1
XMN2 out in_b gnd gnd sky130_fd_pr__nfet_g5v0d10v5 W=wn_dn L=1

* Cross-coupled PMOS (SVDD domain)
XMP1 n1  out svdd svdd sky130_fd_pr__pfet_g5v0d10v5 W=wp_dn L=0.5
XMP2 out n1  svdd svdd sky130_fd_pr__pfet_g5v0d10v5 W=wp_dn L=0.5

.ends level_shifter_down
